US06403596B1
Step 1B: 2-(2-Methylthio-pyrimidin-5-yl)-1-(3-trifluoromethylphenyl)-ethanone
To a solution of diisopropylamine (7.9 mL, 0.056 mole) in THF (100 mL) at −78° C. and under argon was added 2.5M n-butylithium (22.5 mL, 0.056 mole) followed, after 5 minutes, by a solution of 2-methylthio-4-methylpyrimidine (5.27 g, 0.376 mole) in THF (20 mL). Upon stirring for 15 min. at -78° C., a solution of N-methoxy-N-methyl-3-trifluoromethylbenzamide (9.63 g, 0.041 mole) in THF (90 mL) was added. The reaction was allowed to warm to 0° C. and then quenched into water (400 mL) and ethyl acetate (400 mL). The layers were separated and the aqueous layer washed with ethyl acetate (200 mL). The ethyl acetate extracts were combined, dried over anhydrous sodium sulfate, filtered, and concentrated to a solid (11.9 g). Trituration from 10% ether/hexane (100 mL) gave 9.5 g (78%) of the title compound.

reactant | diisopropylamine | 0.056 mole, 7.9 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-methylthio-4-methylpyrimidine | 0.376 mole, 5.27 g | CSC1=NC=CC(=N1)C | C6H8N2S
reactant | N-methoxy-N-methyl-3-trifluoromethylbenzamide | 0.041 mole, 9.63 g | CON(C(C1=CC(=CC=C1)C(F)(F)F)=O)C | C10H10F3NO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 2-(2-Methylthio-pyrimidin-5-yl)-1-(3-trifluoromethylphenyl)-ethanone | 9.5 g, 78% | CSC1=NC=C(C=N1)CC(=O)C1=CC(=CC=C1)C(F)(F)F | C14H11F3N2OS
